US06919329B2
Step 1: Preparation of 2-(isopropylamino)-5-nitrophenol
A solution of 2-amino-5-nitrophenol (2.00 g, 13.0 mmol) in absolute EtOH (52 mL) and acetone (14.3 mL, 195 mmol, 15 equiv.) is treated with sodium cyanoborohydride (408 mg, 6.49 mmol), the pH is adjusted to 4.5-5.0 with glacial AcOH, and the mixture is stirred at ambient temperature for 4 days, during which time additional acetone (2×14.3 mL), sodium cyanoborohydride (3×408 mg) and glacial AcOH is added. The reaction mixture is then readjusted to pH 6, concentrated under reduced pressure, diluted with water (50 mL) and CH2Cl2 (75 mL), and the layers are separated. The organic phase is washed with saline (25 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure, and the residue is chromatographed on a Flash 40M 90 g silica gel cartridge with EtOAc/heptane (20/80). Pooling and concentration of those fractions with an Rf=0.59 by TLC (EtOAc/hexanes, 50/50) gives the title compound, mp 108-110° C.; MS (ESI+) for C9H12N2O3 m/z 197 (M+H)+.

reactant | 2-amino-5-nitrophenol | 13.0 mmol, 2.00 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | acetone | 195 mmol, 14.3 mL, 15 equiv. | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 6.49 mmol, 408 mg | C(#N)[BH3-].[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
reactant | acetone | 14.3 mL | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 408 mg | C(#N)[BH3-].[Na+]
solvent | EtOH | 52 mL | CCO | C2H6O
product | 2-(isopropylamino)-5-nitrophenol | C(C)(C)NC1=C(C=C(C=C1)[N+](=O)[O-])O | C9H12N2O3
